US07732452B2
Step 2: 4-[2-[5-(2-Methoxy-phenyl)-pyridin-2-yloxy]-acetylamino]-thiophene-3-carboxylic acid methyl ester
To a solution of 4-[2-(5-bromo-pyridin-2-yloxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester (50 g, 0.135 mmol) in a mixture of tetrahydrofuran (10.5 mL) and water (2.5 mL) was added 2-methoxyphenylboronic acid (24.5 mg, 0.162 mmol) and cesium carbonate (175.3 mg, 0.54 mmol). The solution was then degassed by bubbling a flux of argon for 20 minutes before adding tetrakis(triphenylphosphine)palladium (4.24 mg, 0.0034 mmol). The reaction mixture was then stirred overnight at 80° C. under argon atmosphere before allowing to cool down to room temperature and diluting with ethyl acetate. The reaction mixture was then filtered; the filtrate was then washed twice with water and dried over sodium sulfate before being concentrated in vacuo. The residue was then purified by column chromatography (SiO2, EtOAc/Heptane, 0-60%) to yield the title compound as a light yellow solid (42.5 mg, 79%).

reactant | 4-[2-(5-bromo-pyridin-2-yloxy)-acetylamino]-thiophene-3-carboxylic acid methyl ester | 0.135 mmol, 50 g | COC(=O)C1=CSC=C1NC(COC1=NC=C(C=C1)Br)=O | C13H11BrN2O4S
reactant | 2-methoxyphenylboronic acid | 0.162 mmol, 24.5 mg | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | cesium carbonate | 0.54 mmol, 175.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 10.5 mL | O1CCCC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0034 mmol, 4.24 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-[5-(2-Methoxy-phenyl)-pyridin-2-yloxy]-acetylamino]-thiophene-3-carboxylic acid methyl ester | 42.5 mg, 79% | COC(=O)C1=CSC=C1NC(COC1=NC=C(C=C1)C1=C(C=CC=C1)OC)=O | C20H18N2O5S
